US07166597B2
N-{4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]pyrimidin-2-yl}-N-(2-pyrrolidin-1-ylethyl)amine
2-Pyrrolidin-1-ylethylamine (0.04 mL) and 4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]pyrimidin-2-yl methyl sulfone (0.02 g) were mixed at room temperature and heated with an airgun until a homogenous melt was obtained (2 min). Upon cooling, water was added. The precipitated solid was filtered and dried to give the title compound as a beige solid (0.012 g); 1H NMR (CDCl3) δ 8.83(1H, s), 8.51(1H, d), 8.11(1H, d), 7.63(2H, dd), 7.43 (1H, dd), 7.15(2H, dd), 6.33(1H, d), 5.75(1H, bs), 3.58(2H, dt), 2.76(2H, t), 2.58(2H, bt), 1.81(2H, bm); m/z 471 (M+1)+.

reactant | 2-Pyrrolidin-1-ylethylamine | 0.04 mL | N1(CCCC1)CCN | C6H14N2
reactant | 4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]pyrimidin-2-yl methyl sulfone | 0.02 g | CS(=O)(=O)C1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F | C19H12F4N4O2S
solvent | water | O | H2O
product | N-{4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]pyrimidin-2-yl}-N-(2-pyrrolidin-1-ylethyl)amine | 0.012 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=NC(=NC=C1)NCCN1CCCC1 | C24H22F4N6
